US05569664
To a stirred solution of 2.6 grams (0.013 mole) of 4,5-dihydro-1-methyl-5-oxo-4-(4-methylphenyl)-1H-1,2,4-triazole in 150 mL of carbon tetrachloride were added 0.3 gram (catalyst) of benzoyl peroxide and 2.5 grams (0.014 mole) of N-bromosuccinimide. The reaction mixture was heated at reflux for three hours, after which it was cooled and concentrated under reduced pressure, yielding 2.6 grams of 4,5-dihydro-1-methyl-5-oxo-4-(4-bromomethylphenyl)-1H-1,2,4-triazole, which was used in the next reaction without further characterization.

reactant | 4,5-dihydro-1-methyl-5-oxo-4-(4-methylphenyl)-1H-1,2,4-triazole | 0.013 mole, 2.6 grams | CN1N=CN(C1=O)C1=CC=C(C=C1)C | C10H11N3O
reactant | benzoyl peroxide | 0.3 gram | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.014 mole, 2.5 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,5-dihydro-1-methyl-5-oxo-4-(4-bromomethylphenyl)-1H-1,2,4-triazole | 2.6 grams | CN1N=CN(C1=O)C1=CC=C(C=C1)CBr | C10H10BrN3O
